US09260425B2
Following the Suzuki coupling procedure of Example 10, 5-bromo-3-(6-fluoropyridin-2-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridine and ethyl 2-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl)acetate, were reacted and purified via silica gel chromatography using a gradient of EtOAc in heptane to afford 100 mg (56%) of Ethyl 2-(4-(3-(6-fluoropyridin-2-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridin-5-yl)-1H-pyrazol-1-yl)acetate. ESI MS m/z 451.1 (M+1).

reactant | 5-bromo-3-(6-fluoropyridin-2-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridine | BrC=1C=C2C(=CN1)N(N=C2C2=NC(=CC=C2)F)C2OCCCC2 | C16H14BrFN4O
reactant | ethyl 2-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl)acetate | CC1(OB(OC1(C)C)C=1C=NN(C1)CC(=O)OCC)C | C13H21BN2O4
product | Ethyl 2-(4-(3-(6-fluoropyridin-2-yl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazolo[3,4-c]pyridin-5-yl)-1H-pyrazol-1-yl)acetate | 100 mg, 56% | FC1=CC=CC(=N1)C1=NN(C2=CN=C(C=C21)C=2C=NN(C2)CC(=O)OCC)C2OCCCC2 | C23H23FN6O3
